US07544672B2
A mixture of pent-4-ynyl methanesulfonate (887 mg) and N-methyl piperazine (607 μL) was heated to 80° C. for 4.5 h, diluted with 1,2-dichloroethane (5 mL) and heated to 70° C. for 18 h. Saturated aq. NaHCO3 was added (10 mL) and the mixture was extracted with DCM (3×40 mL), dried over Na2SO4, and concentrated to afford 1-methyl-4-(pent-4-ynyl)piperazine (0.23 g).

reactant | pent-4-ynyl methanesulfonate | 887 mg | CS(=O)(=O)OCCCC#C | C6H10O3S
reactant | N-methyl piperazine | 607 μL | CN1CCNCC1 | C5H12N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1-methyl-4-(pent-4-ynyl)piperazine | 0.23 g | CN1CCN(CC1)CCCC#C | C10H18N2
